US07994185B2
2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (80 mg, 0.15 mmol) and 3-(4-morpholinyl)-1-propanamine (0.10 mL, approx. 6.9 mmol) the title compound was obtained as a white solid (85 mg, 89% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.01 (d, J=5.1 Hz, 1H), 7.52-7.67 (m, 1H), 7.36 (dd, J=7.6, 1.6 Hz, 1H), 7.21-7.32 (m, 2H), 7.07-7.21 (m, 3H), 6.14 (br. s., 1H), 3.57 (br. s., 4H), 3.20-3.36 (m, 8H), 2.36-2.41 (m, 1H), 1.65 (br. s., 2H), 1.31 (d, J=6.8 Hz, 6H). MS (ESI): 633.5 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.15 mmol, 80 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 3-(4-morpholinyl)-1-propanamine | approx. 6.9 mmol, 0.10 mL | N1(CCOCC1)CCCN | C7H16N2O
product | 2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCCN1CCOCC1)C(C)C)F | C29H31F3N6O3S2
